US06821967B2
b. 8-bromo-1H-quinoline-2-one
6 g (22.21 mmol) of N-(2-bromo-phenyl)-3-ethoxy-acrylamide are added batchwise to 30 ml of concentrated sulphuric acid (exothermic) and stirred for one hour. The reaction mixture is poured onto ice water and the precipitate formed is filtered off. The product is purified by column chromatography on silica gel (eluant: dichloromethane/ethyl acetate=3:1).

reactant | N-(2-bromo-phenyl)-3-ethoxy-acrylamide | 22.21 mmol, 6 g | BrC1=C(C=CC=C1)NC(C=COCC)=O | C11H12BrNO2
solvent | sulphuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
product | 8-bromo-1H-quinoline-2-one | BrC=1C=CC=C2C=CC(NC12)=O | C9H6BrNO
